### PR TITLE
[Merged by Bors] - feat: nonnegativity of `Finsupp.sum`

### PR DESCRIPTION
**Pull request by Maldooor**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Finsupp/Order.lean [hunk 1]
```diff
@@ -41,9 +41,20 @@ section OrderedAddCommMonoid
 variable [AddCommMonoid β] [PartialOrder β] [IsOrderedAddMonoid β] {f : ι →₀ α} {h₁ h₂ : ι → α → β}
 
 @[gcongr]
+
```
Comment (YaelDillies) [inline Mathlib/Data/Finsupp/Order.lean]:
```suggestion
```

File: Mathlib/Data/Finsupp/Order.lean [hunk 2]
```diff
@@ -41,9 +41,20 @@ section OrderedAddCommMonoid
...
+theorem sum_nonneg (h : ∀ i ∈ f.support, 0 ≤ h₁ i (f i)) : 0 ≤ f.sum h₁ := Finset.sum_nonneg h
+
+theorem sum_nonneg' (h : ∀ i, 0 ≤ h₁ i (f i)) : 0 ≤ f.sum h₁ := by
+  apply sum_nonneg
+  intro i iin
+  exact h i
+
+theorem sum_nonpos (h : ∀ i ∈ f.support, h₁ i (f i) ≤ 0) : f.sum h₁ ≤ 0:= Finset.sum_nonpos h
+
+
```
Comment (YaelDillies) [inline Mathlib/Data/Finsupp/Order.lean:52]:
```suggestion

```

File: Mathlib/Data/Finsupp/Order.lean [hunk 3]
```diff
@@ -41,9 +41,20 @@ section OrderedAddCommMonoid
...
 lemma sum_le_sum (h : ∀ i ∈ f.support, h₁ i (f i) ≤ h₂ i (f i)) : f.sum h₁ ≤ f.sum h₂ :=
   Finset.sum_le_sum h
 
+theorem sum_nonneg (h : ∀ i ∈ f.support, 0 ≤ h₁ i (f i)) : 0 ≤ f.sum h₁ := Finset.sum_nonneg h
+
+theorem sum_nonneg' (h : ∀ i, 0 ≤ h₁ i (f i)) : 0 ≤ f.sum h₁ := by
+  apply sum_nonneg
+  intro i iin
+  exact h i
```
Comment (YaelDillies) [inline Mathlib/Data/Finsupp/Order.lean]:
```suggestion
theorem sum_nonneg' (h : ∀ i, 0 ≤ h₁ i (f i)) : 0 ≤ f.sum h₁ := sum_nonneg fun _ _ ↦ h _
```

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

**Review by Vierkantor — APPROVED** [review]
Thanks for the code and the review! I agree with Yaël's suggestions.

bors d+

File: Mathlib/Data/Finsupp/Order.lean [hunk 4]
```diff
@@ -44,6 +44,11 @@ variable [AddCommMonoid β] [PartialOrder β] [IsOrderedAddMonoid β] {f : ι 
 lemma sum_le_sum (h : ∀ i ∈ f.support, h₁ i (f i) ≤ h₂ i (f i)) : f.sum h₁ ≤ f.sum h₂ :=
   Finset.sum_le_sum h
 
+theorem sum_nonneg (h : ∀ i ∈ f.support, 0 ≤ h₁ i (f i)) : 0 ≤ f.sum h₁ := Finset.sum_nonneg h
+
+theorem sum_nonneg' (h : ∀ i, 0 ≤ h₁ i (f i)) : 0 ≤ f.sum h₁ := sum_nonneg fun _ _ ↦ h _
+
+theorem sum_nonpos (h : ∀ i ∈ f.support, h₁ i (f i) ≤ 0) : f.sum h₁ ≤ 0:= Finset.sum_nonpos h
```
Comment (Maldooor) [inline Mathlib/Data/Finsupp/Order.lean]:
```suggestion
theorem sum_nonpos (h : ∀ i ∈ f.support, h₁ i (f i) ≤ 0) : f.sum h₁ ≤ 0:= Finset.sum_nonpos h

```

File: Mathlib/Data/Finsupp/Order.lean [hunk 5]
```diff
@@ -44,6 +44,12 @@ variable [AddCommMonoid β] [PartialOrder β] [IsOrderedAddMonoid β] {f : ι 
...
```
Comment (Maldooor) [inline Mathlib/Data/Finsupp/Order.lean]:
```suggestion
theorem sum_nonpos (h : ∀ i ∈ f.support, h₁ i (f i) ≤ 0) : f.sum h₁ ≤ 0 := Finset.sum_nonpos h
```
